Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:8],3.66898303562
[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.80655266923
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])[O:9][C:10]([H:11])([H:12])[H:13].[H:8],4.10336543509
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:6].[O:1]=[C:2]([H:3])[C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],4.02413723098
[H:1][C:2][C:3]#[C:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[C:2]#[C:4][C:5]([H:6])=[C:7]([H:8])[H:9].[H:1][C:3],7.3227355005299986
[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]([O:4][H:5])=[C:6][H:7]>>[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-4.55730445276
[C:3]([H:4])([H:5])[C:6]([O:7][H:8])=[C:9]([H:10])[H:11].[O:1]=[C:2]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([O:7][H:8])=[C:9]([H:10])[H:11],-0.910324716481
[H:1][C:2]([H:3])=[C:4][O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]1([H:3])[C:4][O:5][C:6][C:7]([H:8])([H:9])[C:10]1([H:11])[H:12],-1.4177102548500002
[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2][O:3][C:4][H:5]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-8.15296334759
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],3.75262033755
[O:1]=[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[O:9][H:10]>>[C:8][O:9][H:10].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][H:7],5.74536888112
[C:8]([O:9][H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2][C:3]([H:4])([H:5])[C:6][H:7]>>[H:1][C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[O:9][H:10])[C:11]([H:12])([H:13])[H:14],-6.95752948212
[C:1]/[C:2](=[C:3](\[H:4])[O:5][O:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][C:3]([H:4])[O:5][O:6].[C:7]([H:8])([H:9])[H:10],2.68453583352
[C:2]#[C:3][O:4][C:5]([H:6])([H:7])[H:8].[O:1]>>[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])([H:7])[H:8],-6.82287644357
[C:3]([H:4])=[C:5]([H:6])[O:7][O:8][H:9].[H:1][C:2]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][O:8][H:9],-6.47595658399
[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19]>>[H:1][C:2]([H:3])([H:4])[C:5](=[C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19].[H:9],1.89388934035
[H:1][C:2]([H:3])[C:4]([H:5])([C:6]([H:7])[H:8])/[C:9]([H:10])=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])[C:4](=[C:6]([H:7])[H:8])/[C:9]([H:10])=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16].[H:5],1.5596898178
[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[H:8]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-2.40291999829
[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10],1.966338618
[C:4]([H:5])=[C:6]([H:7])[O:8][H:9].[O:1][C:2][C:3]>>[O:1]=[C:2]=[C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9],-5.47988823369
[O:1][O:2][C@@:3]([H:4])([C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1].[O:2][C@:3]([H:4])([C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11],2.80926092892
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8][H:9]>>[H:7].[O:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:8][H:9],1.86811425991
[C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12].[O:1]>>[O:1]=[C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-7.504668742410001
[H:1][O:2][C:3]([H:4])=[C:5]=[C:7]([H:8])[H:9].[H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[H:9],-3.08680890108
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[O:1][C@:2]1([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]1[H:11],-0.309159282229
[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.2271430784599975
[H:1][C:2]#[C:3][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:4][C:7]#[C:5][H:6]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],0.92015937471
[C:1]=[C:2]([O:3][C:4][H:5])[C:9]([H:10])([H:11])[H:12].[C:6]([H:7])[H:8]>>[C:1]=[C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-7.475937224369999
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][C:2]#[C:3],5.546521891669999
